US06211215B1
In substantially the same manner as in Working Example 8, imidazole was allowed to react with 5-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]pentyl methanesulfonate to give 4-[4-[5-(1-imidazolyl)pentyl]phenoxymethyl]-2-[(E)-2-phenylethenyl]oxazole. The yield was 66%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 101-102° C.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | 5-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]pentyl methanesulfonate | CS(=O)(=O)OCCCCCC1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C24H27NO5S
product | 4-[4-[5-(1-imidazolyl)pentyl]phenoxymethyl]-2-[(E)-2-phenylethenyl]oxazole | yield was 66% | N1(C=NC=C1)CCCCCC1=CC=C(OCC=2N=C(OC2)\C=C\C2=CC=CC=C2)C=C1 | C26H27N3O2
